### PR TITLE
countable additivity for nonnegative functions

### LINKED ISSUE #651: lacks hint locality
https://github.com/math-comp/analysis/blob/f51361af6362efbed046a9edae0514906cf8a339/theories/topology.v#L3645

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

~~Merge after PR #558 .~~ DONE

fixes #651 

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
  (do not edit former entries, only append new ones, be careful:
   merge and rebase have a tendency to mess up `CHANGELOG_UNRELEASED.md`)
~~- [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/lebesgue_integral.v [hunk 1]
```diff
@@ -2819,9 +2848,69 @@ Qed.
...
+(* TODO: move to classical_sets.v *)
+Lemma bigsetU_bigcup T (F : nat -> set T) n :
+  \big[setU/set0]_(i < n) F i `<=` \bigcup_k F k.
+Proof. by rewrite -bigcup_mkord => x [k _ Fkx]; exists k. Qed.
+
 Section integrable_lemmas.
+Local Open Scope ereal_scope.
 Variables (T : measurableType) (R : realType) (mu : {measure set T -> \bar R}).
 
+Lemma ge0_countable_additivity (F : (set _)^nat) (f : T -> \bar R) :
```
Comment (CohenCyril) [inline theories/lebesgue_integral.v:2870]: `ge0_integral_bigcup`?

File: theories/lebesgue_integral.v [hunk 2]
```diff
@@ -2290,6 +2290,35 @@ move=> mf f0 AB; rewrite -(setDUK AB) integral_setU//; last 4 first.
 by apply: lee_addl; apply: integral_ge0 => x [Bx _]; apply: f0.
 Qed.
 
+Lemma integral_set0 (f : T -> \bar R) : \int_ set0 (f x) 'd mu[x] = 0.
+Proof.
+rewrite integral_mkcond (eq_integral (cst 0)) ?integral0// => x _.
+by rewrite /restrict; case: ifPn => //; rewrite in_set0.
+Qed.
+
+Lemma integral_bigsetU (F : (set T)^nat) (mF : forall n, measurable (F n))
```
Comment (CohenCyril) [inline theories/lebesgue_integral.v:2299]: `ge0_` ?

Comment (CohenCyril) [reply theories/lebesgue_integral.v:2299]: Is this condition really necessary by the way?

Comment (affeldt-aist) [reply theories/lebesgue_integral.v:2299]: Couldn't find out easily how to get rid of it...

Comment (affeldt-aist) [reply theories/lebesgue_integral.v]: Is it the only blocker for this PR?

Comment (affeldt-aist) [reply theories/lebesgue_integral.v]: Is it the only blocker for this PR?

File: theories/lebesgue_integral.v [hunk 3]
```diff
@@ -2562,8 +2592,52 @@ End integrable.
...
 
 Section integrable_lemmas.
+Local Open Scope ereal_scope.
 Variables (T : measurableType) (R : realType) (mu : {measure set T -> \bar R}).
 
+Lemma ge0_integral_bigcup (F : (set _)^nat) (f : T -> \bar R) :
+  let D := \bigcup_k F k in
+  (forall x, D x -> 0 <= f x) -> trivIset setT F ->
+  (forall k, measurable (F k)) -> mu.-integrable D f ->
+  \int[mu]_(x in D) f x = \sum_(i <oo) \int[mu]_(x in F i) f x.
```
Comment (proux01) [inline theories/lebesgue_integral.v:2602]: Bikeshedding: I would have expected the hypothesis to be in a similar order to `ge0_integral_bigsetU`

**Review by proux01 — APPROVED** [review]
LGTM, will merge by the end of the week if there is no further comment

**Review by t6s — APPROVED** [review]
LGTM2.
(I was almost about to comment "why nonnegativity is assumed? can you remove it?" then realized by seeing the PR title that I was just mistaken.)
